US06218427B1
Reference Example 5 Methyl 2-(benzo[1,3]dioxol-5-yl)-6-isopropoxy-4-oxo-chroman-3-carboxylate (IV-2)
A solution of piperonal (182.4 g, 1.22 mol) in toluene (1 L) was heated to reflux in a flask equipped with a Dean Stark dehydration apparatus to which a mixture of methyl 3-(2-hydroxy-5-isopropoxy-phenyl)-3-oxo-propionate (VIII-2) (151 g, 0.61 mol) synthesized by the method described in Reference Example 4, piperidine (1.55 g, 0,018 mol), acetic acid (3.65 g, 0.061 mol) in toluene (1.3 L) was added dropwise over a period of 1 h and the solution was refluxed for another 1 h. After cooling, the reaction mixture was poured into ice water (3 L) and extracted with toluene. The organic layer was washed with water, dried, and concentrated under reduced pressure. The residue was treated with Girard T reagent (143 g) in methanol (500 ml) and toluene (2 L) for 2 h. Brine (3.5 L) was added and the organic layer was separated and the aqueous layer was further extracted with toluene. The combined organic layers were washed with water, dried, and concentrated. The residue was subjected to a chromatographed on silica gel (toluene). During the elution, the products gradually cyclized to give compound (IV-2) (102 g, 44%) as an oil. The oil was clarified a keto-enol tautomeric mixture as shown by NMR. NMR(CDCl3):1.3 l(d, J=6.0), 1.32*(d, J=6.2), 3.67*(s), 3.76(s), 4.02*(d, J=12.0), 4.46(m), 4.53*(m), 5.55*(d, J=12.0), 5.91*(s), 6.00(s),6.10(s), 6.67-7.36(m) (* are signals derived from a major product)

reactant | piperonal | 1.22 mol, 182.4 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | methyl 3-(2-hydroxy-5-isopropoxy-phenyl)-3-oxo-propionate | 0.61 mol, 151 g | OC1=C(C=C(C=C1)OC(C)C)C(CC(=O)OC)=O | C13H16O5
reactant | piperidine | 0,018 mol, 1.55 g | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.061 mol, 3.65 g | C(C)(=O)O | C2H4O2
solvent | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.3 L | C1(=CC=CC=C1)C | C7H8
product | Methyl 2-(benzo[1,3]dioxol-5-yl)-6-isopropoxy-4-oxo-chroman-3-carboxylate | O1COC2=C1C=CC(=C2)C2OC1=CC=C(C=C1C(C2C(=O)OC)=O)OC(C)C | C21H20O7
